US06432993B1
t-Butyl N-[5-(3,5-di-t-butyl-4-hydroxyphenylthio)-2-nitrophenyl]-N-methylcarbamate
By using 476 mg of 3,5-di-t-butyl-4-hydroxybenzenethiol, 573 mg of t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate, 175 mg of sodium hydride (55% by weight) and 10 ml of anhydrous N,N-dimethylformamide, reaction and purification were carried out in a similar manner to that described in Reference Example 6, whereby 371 mg of the title compound were obtained.

reactant | 3,5-di-t-butyl-4-hydroxybenzenethiol | 476 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S | C14H22OS
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 573 mg | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 175 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(3,5-di-t-butyl-4-hydroxyphenylthio)-2-nitrophenyl]-N-methylcarbamate | 371 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C26H36N2O5S
